US06602867B1
10.0 ml of concentrated sulfuric acid were slowly added dropwise to a solution of 1.77 g (6.2 mmol) of N-trifluoroacetyl-2-(4-trifluoromethylphenyl)ethylamine [prepared from 2-(4-trifluoromethylphenyl)ethylamine and trifluoroacetic anhydride at −5° C.] in 7.5 ml of glacial acetic acid, and, while cooling in ice, 2 ml of formalin solution were added dropwise. After 18 hours at room temperature, the reaction mixture was poured into 130 ml of ice-water and extracted with dichloromethane, and the combined organic phases were washed with sodium bicarbonate solution and then with water. After drying over sodium sulfate, filtration and evaporation, 1.7 g of 2-trifluoroacetyl-7-trifluoromethyl-1,2,3,4-tetrahydroisoquinoline were isolated and were converted into 7-trifluoromethyl-1,2,3,4-tetrahydroisoquinoline by heating under reflux in ethanol/3N HCl (1:1) and alkaline workup.

reactant | sulfuric acid | 10.0 ml | S(O)(O)(=O)=O | H2O4S
reactant | N-trifluoroacetyl-2-(4-trifluoromethylphenyl)ethylamine | 6.2 mmol, 1.77 g | FC(C(=O)NCCC1=CC=C(C=C1)C(F)(F)F)(F)F | C11H9F6NO
reactant | formalin | 2 ml | C=O | CH2O
solvent | acetic acid | 7.5 ml | C(C)(=O)O | C2H4O2
product | 2-trifluoroacetyl-7-trifluoromethyl-1,2,3,4-tetrahydroisoquinoline | 1.7 g | FC(C(=O)N1CC2=CC(=CC=C2CC1)C(F)(F)F)(F)F | C12H9F6NO
